US04845261
Bis(2,4-dichlorophenyl)phosphorochloridate, Method B
The title compound was prepared by the general method of Example 1 with the following modifications. (1) The molar ratio of 2,4-dichlorophenol to phosphorus oxychloride was increased from 1.33 to 1.85 by using 189.99 g (1.165 mole) of 2,4-dichlorophenol and 96.60 g (0.63 mole) of phosphorus oxychloride. (2) The reaction time at 120° was increased to about 24 hours. (3) The product was crystallized using a larger quantity of hexane (570 ml, or 3 ml per gram of starting 2,4-dichlorophenol) at -15°. Analysis by GLPC indicated 82% purity (by weight) of bis(2,4-dichlorophenyl)phosphorochloridate, with contamination by a trace of 2,4-dichlorophenyl phosphorodichloridate and 18% (by weight) of tris(2,4-dichlorophenyl)phosphate. The yield of the bis(2,4-dichlorophenyl)phosphorochloridate when corrected for purity was 125 g (53%). Subsequent reactions were unaffected by the presence of the tris(2,4-dichlorophenyl)phosphate, as illustrated by Examples 3 and 4.

reactant | 2,4-dichlorophenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,4-dichlorophenol | 1.165 mole, 189.99 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | phosphorus oxychloride | 0.63 mole, 96.60 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Bis(2,4-dichlorophenyl)phosphorochloridate | ClC1=C(C=CC(=C1)Cl)OP(OC1=C(C=C(C=C1)Cl)Cl)(=O)Cl | C12H6Cl5O3P
